US06635640B2
3-[3-Methyl-5-(4-methylpiperazine-1-carbonyl)-1H-pyrrol-2-ylmethylene]-4-piperidin-4-yl-1,3-dihydroindol-2-one
4-Piperidin-4-yl-1,3-dihydro-indol-2-one (45 mg, 0.2 mmol) was condensed with 3-methyl-5-(4-methylpiperazine-1-carbonyl)-1H-pyrrole-2-carbaldehyde (52 mg, 0.23 mmol) to give the title compound.

reactant | 4-Piperidin-4-yl-1,3-dihydro-indol-2-one | 0.2 mmol, 45 mg | N1CCC(CC1)C1=C2CC(NC2=CC=C1)=O | C13H16N2O
reactant | 3-methyl-5-(4-methylpiperazine-1-carbonyl)-1H-pyrrole-2-carbaldehyde | 0.23 mmol, 52 mg | CC1=C(NC(=C1)C(=O)N1CCN(CC1)C)C=O | C12H17N3O2
product | 3-[3-Methyl-5-(4-methylpiperazine-1-carbonyl)-1H-pyrrol-2-ylmethylene]-4-piperidin-4-yl-1,3-dihydroindol-2-one | CC1=C(NC(=C1)C(=O)N1CCN(CC1)C)C=C1C(NC2=CC=CC(=C12)C1CCNCC1)=O | C25H31N5O2
